US07259267B2
Preparation of 5-isothiocyanato-2,2-difluorobenzo[1,3]-dioxole:
34.6 g of 5-amino-2,2-difluorobenzodioxole were added dropwise to a solution of 90 ml of conc. hydrochloric acid in 350 ml of water. The mixture was stirred for a further 30 minutes and then 27 g of thiophosgene were metered in rapidly. The mixture was stirred at the given temperature for a further 3 hours, the almost colourless suspension was admixed with 150 ml of dichloromethane and the dichloromethane was removed. The crude product was distilled at 45 mbar. 28 g (=89% of theory) were obtained as a colourless to yellowish liquid.

reactant | 5-amino-2,2-difluorobenzodioxole | 34.6 g | C1=CC2=C(C=C1N)OC(O2)(F)F | C7H5F2NO2
reactant | hydrochloric acid | 90 ml | Cl | ClH
reactant | thiophosgene | 27 g | C(=S)(Cl)Cl | CCl2S
reactant | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | water | 350 ml | O | H2O
product | 5-isothiocyanato-2,2-difluorobenzo[1,3]-dioxole | N(=C=S)C1=CC2=C(OC(O2)(F)F)C=C1 | C8H3F2NO2S
